US06376429B1
Step 1: 2-Chloro-4-methylsulfonyl-3-phenoxymethylbenzoic acid
1.0 g (2.93 mmol) of methyl 3-bromomethyl-2-chloro-4-methylsulfonylbenzoate and 0.28 g (2.93 mmol) of phenol were dissolved in 20 ml of dimethylformamide and treated with 0.14 g (3.51 mmol) of 60% strength sodium hydride. The mixture was stirred overnight at room temperature and then concentrated in a high vacuum on a rotary evaporator. The residue was dissolved in 16 ml of tetrahydrofuran and 8 ml of water and the solution was refluxed for 4 h together with 0.23 g of NaOH (5.85 mmol). It was then allowed to cool and was largely concentrated on a rotary evaporator, and the aqueous residue was then treated with 2 M HCl. It was then extracted with methylene chloride, and the combined organic phase was dried over MgSO4 and completely concentrated on a rotary evaporator.

reactant | methyl 3-bromomethyl-2-chloro-4-methylsulfonylbenzoate | 2.93 mmol, 1.0 g | BrCC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C10H10BrClO4S
reactant | phenol | 2.93 mmol, 0.28 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
reactant | NaOH | 5.85 mmol, 0.23 g | [OH-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 8 ml | O | H2O
product | 2-Chloro-4-methylsulfonyl-3-phenoxymethylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1COC1=CC=CC=C1)S(=O)(=O)C | C15H13ClO5S
